US20010027196A1
6-Furan-2-yl-5-methyl-N4-(2-phenylamino-ethyl)-pyrimidine-2,4-diamine
From trifluoromethanesulfonic acid 2-amino-6-furan-2-yl-5-methyl-pyrimidin-4-yl ester and N-phenylethylenediamine in DME. ES-MS m/e (%): 310 (M+H+, 100).

reactant | trifluoromethanesulfonic acid 2-amino-6-furan-2-yl-5-methyl-pyrimidin-4-yl ester | NC1=NC(=C(C(=N1)OS(=O)(=O)C(F)(F)F)C)C=1OC=CC1 | C10H8F3N3O4S
reactant | N-phenylethylenediamine | C1(=CC=CC=C1)NCCN | C8H12N2
solvent | DME | COCCOC | C4H10O2
product | 6-Furan-2-yl-5-methyl-N4-(2-phenylamino-ethyl)-pyrimidine-2,4-diamine | O1C(=CC=C1)C1=C(C(=NC(=N1)N)NCCNC1=CC=CC=C1)C | C17H19N5O
